US05852016
N-(7-Chloro-6fluoro-2,3-dimethoxyquinoxalin-5-yl-methanesulphonamide
Methanesulphonic anhydride (0.55 g, 3.16 mmol) and pyridine (255 μl, 3.15 mmol) were added to a stirred suspension of 5-amino-7-chloro-6-fluoro-2,3-dimethoxyquinoxaline (see Preparation 24) (0.274 g, 1.06 mmol) in dichloromethane (15 ml) at room temperature under nitrogen. The mixture was stirred at room temperature overnight, concentrated to dryness and suspended in tetrahydrofuran (30 ml). The reaction mixture was treated with 1M sodium hydroxide (5.3 ml, 5.3 mmol) with ice-cooling, followed by stirring at 5° C. for 1.5 h. The reaction mixture was acidified to pH2 with 2M hydrochloric acid, concentrated and partitioned between water and dichloromethane. The layers were separated and the aqueous layer was extracted with dichloromethane twice. The combined organics were dried (MgSO4) and concentrated to give a pale yellow solid. Suspension in THF (30 ml) and treatment with 1M sodium hydroxide (5.3 ml, 5.3 mmol) at 5° C. was followed by stirring at room temperature for 2 h. The reaction mixture was acidified to pH2 with 2M hydrochloric acid, concentrated to a small volume, diluted with water and filtered. The filtrate was washed with water and cold diethyl ether to afford a white solid (0.32 g, 90%), m.p. 227°-228° C.

reactant | Methanesulphonic anhydride | 3.16 mmol, 0.55 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | pyridine | 3.15 mmol, 255 μl | N1=CC=CC=C1 | C5H5N
reactant | 5-amino-7-chloro-6-fluoro-2,3-dimethoxyquinoxaline | 1.06 mmol, 0.274 g | NC1=C2N=C(C(=NC2=CC(=C1F)Cl)OC)OC | C10H9ClFN3O2
reactant | sodium hydroxide | 5.3 mmol, 1M, 5.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | sodium hydroxide | 5.3 mmol, 1M, 5.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 7-Chloro-6fluoro-2,3-dimethoxyquinoxalin-5-yl-methanesulphonamide | 0.32 g, 90% | ClC1=C(C(=C2N=C(C(=NC2=C1)OC)OC)CS(=O)(=O)N)F | C11H11ClFN3O4S
